US06797718B2
A Parr vessel was charged with acetic acid 2-[(5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]ethyl ester (50.0 g, 170 mmol), 5% platinum on carbon (5.00 g), toluene (600 mL), and 2-propanol (50 mL) and purged with nitrogen. The vessel was then placed under hydrogen pressure (20 psi, ) for 20 hours at room temperature. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with 90:10 dichloromethane:methanol. The filtrate was concentrated under reduced pressure to provide a dark gray solid, which was triturated with diethyl ether, isolated by filtration, and dried to provide 41.0 g of acetic acid 2-[(8-amino-5,6-dimethyltetrazolo[1,5-a]pyridin-7-yl)amino]ethyl ester as a light gray solid.

reactant | acetic acid 2-[(5,6-dimethyl-8-nitrotetrazolo[1,5-a]pyridin-7-yl)amino]ethyl ester | 170 mmol, 50.0 g | CC1=C(C(=C(C=2N1N=NN2)[N+](=O)[O-])NCCOC(C)=O)C | C11H14N6O4
reactant | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 5.00 g | [Pt] | Pt
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
product | acetic acid 2-[(8-amino-5,6-dimethyltetrazolo[1,5-a]pyridin-7-yl)amino]ethyl ester | 41.0 g | NC=1C=2N(C(=C(C1NCCOC(C)=O)C)C)N=NN2 | C11H16N6O2
